US07592477B2
Step h) Formation of ethyl{({4′-[(octylamino)carbonyl]-1,1′-biphenyl-4-yl}methyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetate
To a solution of 4′-({[ethoxy(oxo)acetyl][4-(trifluoromethyl)benzyl]amino}methyl)-1,1′-biphenyl-4-carboxylic acid (100 mg), EDC (47 mg) and HOBt (28 mg) in DCM (4 mL) was added octylamine (0.041 mL). The resulting reaction mixture was stirred for 3 h. DCM (15 mL) and an aqueous solution of HCl (1N, 10 mL) was added. The aqueous layer was extracted with DCM (3×15 mL). The combined organic layers were washed with a saturated solution of NaHCO3 (15 mL) and dried over MgSO4. Evaporation of the solvents gave an oil which was purified by flash chromatography over silica gel (c-Hex/AcOEt 2/1) to give the title compound as a colorless oil (41 mg, 33%). M+(LC/MS(ESI)): 597.8; M−(LC/MS(ESI)): 595.0. HPLC (Condition A), Rt: 6.61 min (HPLC purity: 99.87%)

reactant | 4′-({[ethoxy(oxo)acetyl][4-(trifluoromethyl)benzyl]amino}methyl)-1,1′-biphenyl-4-carboxylic acid | 100 mg | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)=O | C26H22F3NO5
reactant | HOBt | 28 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | octylamine | 0.041 mL | C(CCCCCCC)N | C8H19N
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EDC | 47 mg
product | ethyl{({4′-[(octylamino)carbonyl]-1,1′-biphenyl-4-yl}methyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetate | 41 mg, 33% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NCCCCCCCC)=O | C34H39F3N2O4
